US07576094B2
To a solution of the above solid 3-acetyl-4-hydroxy-2,5,6-trimethylphenyl acetate (35 g) in 150 mL of toluene was added cyclobutanone (11.4 g) and pyrrolidine (15 mL). The reaction was allowed to reflux for 2 hours and water from the reaction was removed using a Dean-Stark apparatus. After the reaction was complete, the mixture was extracted with ethyl acetate and washed with 1N HCl and water. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo to give 34 g of acetyl-protected product as a dark brown residue. This residue was hydrolyzed in 1N NaOH in MeOH/water for 3 hours. After the reaction was complete as indicated by TLC, the mixture was acidified with 1N HCl and extracted with ethyl acetate and dried over anhydrous Na2SO4. After concentration in vacuo, the resulting dark brown residue (30 g) was loaded onto a short silica gel column, and eluted with 10-40% ethyl acetate in hexane. Recrystallization of the resulting product from ethyl acetate and hexane gave 14.6 g of the desired 6-hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one as a yellow solid. The mother liquid was concentrated to give another 4 g of crude 6-hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one as a dark brown residue that can further be purified as described above. 1H-NMR (300 MHz, CDCl3) δ=4.61 (s, 1H), 2.86 (s, 2H), 2.56 (s, 3H), 2.30-1.70 (m, 12H) ppm. 13C-NMR (75 MHz, CDCl3) δ=195.3, 152.8, 146.2, 132.3, 124.2, 120.9, 117.3, 79.6, 47.7, 33.2, 13.4, 12.9, 12.4, 12.3 ppm. MS: m/z=247.1 (M+H+)

reactant | 3-acetyl-4-hydroxy-2,5,6-trimethylphenyl acetate | 35 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)O)C(C)=O)C | C13H16O4
reactant | cyclobutanone | 11.4 g | C1(CCC1)=O | C4H6O
reactant | pyrrolidine | 15 mL | N1CCCC1 | C4H9N
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 1N | [OH-].[Na+]
solvent | MeOH water | CO.O
product | 6-hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 14.6 g | OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C15H18O3
